Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Pulmonary nodule
 
Major Surgical or Invasive Procedure:
___ lower extremity full-thickness skin biopsy,
VATS ___ lower lobe wedge resection.
NGT placement

 
History of Present Illness:
Ms. ___ was referred to the thoracic clinic for evaluation of 
her pulmonary nodules after having undergone a laparoscopic ___ 
nephrectomy which came back positive for oncocytoma. She was 
admitted for a pulmonary wedge resection during this admission 
for further characterization of her lung nodules.
 
Past Medical History:
Renal oncocytoma with focus of papillary carcinoma status post 
___ nephrectomy, dementia, hyperlipidemia, hypertension, and 
hysterectomy
 
Social History:
___
Family History:
Father with lung cancer, sister with breast cancer, and another 
sister with thyroid cancer.
 
Physical Exam:
Temperature 97.2, heart rate 71, blood pressure 149/67, 
respiratory rate 16, oxygen saturation 90% on room air
General: In no apparent distress, alert and oriented
HEENT: Sclerae anicteric. Thyroid of normal size and contour.
Respiratory: Clear to auscultation and percussion bilaterally.
Heart: Regular rate and rhythm, no murmurs, rubs, or gallops.
GI: Abdomen soft, nontender, nondistended
Skin: Diffusely dry and flaky skin with hyperpigmented rash in 
the ___ flank. Some nodules in bilateral thighs. Some edema in 
forearms and tihgtness over finger skin.
Lymph Nodes: No cervical, supraclavicular, axillary, or inguinal 
lymphadenopathy

 
Pertinent Results:
___ 03:34AM BLOOD WBC-14.3* RBC-3.28* Hgb-8.7* Hct-26.5* 
MCV-81* MCH-26.4* MCHC-32.6 RDW-14.9 Plt ___
___:34AM BLOOD Glucose-121* UreaN-34* Creat-1.3* Na-138 
K-4.8 Cl-105 HCO3-24 AnGap-14

CT Chest ___: 1.5-2 cm nodule in the superior segment of 
the ___ lower lobe, partially solid and partially ground-glass. 
Medial to this, another 2-3 mm nodule. In the upper lobe, a 
small fainter appearing 1-2 mm nodule. There is an indistince 
nodule on the contralateral lung as well. 
 
Brief Hospital Course:
Ms. ___ underwent her ___ lower extremity full-thickness skin 
biopsy and 
VATS ___ lower lobe wedge resection, which she tolerated 
without complications. She was admitted to the floor after 
observation in the PACU with a Foley catheter to monitor urine 
output and a PCA for pain control. She had one ___ chest 
tube. She was put on a diet of sips to clears; home meds were 
restarted. CXR showed a moderate ___ pneumothorax with chest 
tube in place. On the floor, the patient complained of chest 
pain and a set of cardiac enzymes were sent to rule out 
myocardial infarction, which were negative. An EKG was obtained 
and no acute changes were observed. Her baseline dementia was 
felt to be an issue with regard to pain control; she would 
frequently forget to press the button and required several 
one-time doses of IV pain medication as a result.

On POD1, her Foley was discontinued and she was switch to oral 
pain medications. Another CXR showed no change. On POD2, the 
chest tube was removed. Her diet was advanced to regular but she 
developed nausea and vomiting, so her diet was dialed back and 
an NG tube was placed for temporary GI decompression. Several 
hours later, the NG tube was removed and her symptoms resolved. 
On POD3, another CXR showed no change. She tolerated regular 
diet, had good pain control on oral medications, and was voiding 
and passing gas and stool. She met discharge criteria and was 
discharged to home without further services. She was instructed 
to follow up in clinic with Dr. ___ on ___.

 
Medications on Admission:
Atenolol, Aricept, Lasix, B2, B6, B12, multivitamins, Prilosec, 
Calcium, Potassium
 
Discharge Medications:
1. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
2. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO DAILY (Daily).  
5. B Complex Vitamins     Capsule Sig: One (1) Cap PO DAILY 
(Daily).  
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Potassium Chloride 10 mEq Capsule, Sustained Release Sig: 
Three (3) Capsule, Sustained Release PO DAILY (Daily).  
11. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
12. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

13. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*35 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ lower lobe nodule
Dementia

 
Discharge Condition:
Good, VSS, tolerating PO diet and pain medications.

 
Discharge Instructions:
Call Dr. ___ ___ if experience:
-Fever > 101 or chills
-Increased shortness of breath, cough or chest pain
-Incision develops drainage: steri-strips remove in 10 days or 
sooner if start to come off
-Chest-tube remove dressing XXX cover with a bandaid.
Should site drain cover with a clean dressing and change as 
needed to keep site clean and dry.
You may shower on ___.  No tub bathing or swimming for 4 
weeks
No driving while taking narcotics.  Take stool softners with 
narcotics

 
Followup Instructions:
___